US04582833
1-(5-Amino-4H-1,2,4-triazol-3-yl)-4-(2-phenoxyethyl)piperazine
In the manner of Example 3 a mixture of 10.3 g (0.05 moles) of 1-[2-phenoxyethyl]piperazine and 7.3 g (0.05 moles) of dimethyl cyanodithioiminocarbonate in 250 ml of acetonitrile was refluxed for 3 hours. After cooling, 2.8 ml (0.056 moles) of hydrazine hydrate was added and the mixture was refluxed for 45 minutes. The mixture was cooled, filtered through diatomaceous earth and the filtrate was evaporated to a paste. The product was crystallized from ethanol/ether/hexane, collected and washed with ether and gave 5.3 g of colorless crystals, mp 131°-133° C.

reactant | 1-[2-phenoxyethyl]piperazine | 0.05 moles, 10.3 g | O(C1=CC=CC=C1)CCN1CCNCC1 | C12H18N2O
reactant | dimethyl cyanodithioiminocarbonate | 0.05 moles, 7.3 g | CSC(=NC#N)SC | C4H6N2S2
reactant | hydrazine hydrate | 0.056 moles, 2.8 ml | O.NN
reactant | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-(5-Amino-4H-1,2,4-triazol-3-yl)-4-(2-phenoxyethyl)piperazine | 5.3 g | NC=1NC(=NN1)N1CCN(CC1)CCOC1=CC=CC=C1 | C14H20N6O
